US07056937B2
Step B: Synthesis of (2-Methyl-pyridin-4-yl)-acetic acid ethyl ester
The mixture of (2-methyl-pyridin-4-yl)-acetic acid methyl ester and the bis adduct (20 g) was dissolved in concentrated hydrochloric acid and heated to reflux for 1 hour. The solution was cooled, diluted with toluene, and concentrated in vacuo to give the crude acid. The acid was dissolved in ethanol, treated with a catalytic amount of sulfuric acid, and heated to reflux for 3 h. The solution was cooled to room temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with saturated aqueous sodium chloride solution. The mixture was filtered and the filtrate concentrated to give 14 g of the title compound as a crude oil. MS(ES): m/e (EI*) 180.1 [M+H]

reactant | (2-methyl-pyridin-4-yl)-acetic acid methyl ester | COC(CC1=CC(=NC=C1)C)=O | C9H11NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (2-Methyl-pyridin-4-yl)-acetic acid ethyl ester | 14 g | C(C)OC(CC1=CC(=NC=C1)C)=O | C10H13NO2
